US05254558
To a solution of ethyl 1-allyl-2-phenylpyrimidin-6(1H)-one-5-carboxylate (25.6 g) in tetrahydrofuran (300 mL) at 0° C. was added a solution of 0.5N sodium hydroxide (198 mL). The resulting solution was allowed to stir for 1 h, was poured into dichloromethane and the organic layer removed. The remaining basic aqueous fraction was extracted with dichloromethane, made acidic with 1N hydrochloric acid (to pH 2), and extracted with dichloromethane. The organic layers from the acidic extractions were dried and evaporated to give an oil which crystallized upon addition of ether. The resulting white solid was collected and washed with ether:hexane (1:1) to give 1-allyl-2-phenylpyrimidin-6(1H)-one-5-carboxylic acid (11.1 g); 300 MHz NMR: 13.0 (s broad,1), 8.69 (s,1), 7.58 (m,5), 5,82 (m,1), 5.16 (d,1), 4.87 (d,1), 4.51 (d,2).

reactant | ethyl 1-allyl-2-phenylpyrimidin-6(1H)-one-5-carboxylate | 25.6 g | C(C=C)N1C(=NC=C(C1=O)C(=O)OCC)C1=CC=CC=C1 | C16H16N2O3
reactant | sodium hydroxide | 0.5N, 198 mL | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 1-allyl-2-phenylpyrimidin-6(1H)-one-5-carboxylic acid | 11.1 g | C(C=C)N1C(=NC=C(C1=O)C(=O)O)C1=CC=CC=C1 | C14H12N2O3
